US05137905
Part F. (S)-N,N-Dimethyl 2-[3-(1-pyrrolidinyl)-1-propynyl]-1-pyrrolidinecarboxamide
This compound was obtained following Example 51, Part A but substituting (S)-1-[3-(2-pyrrolidinyl)-2-propynyl]pyrrolidine for (R)-1-[3-(2-pyrrolidinyl)-2-propynyl]pyrrolidine and dimethyl carbamoyl chloride for acetic anhydride. [α]D -78° (c 1.13, MeOH).

reactant | (R)-1-[3-(2-pyrrolidinyl)-2-propynyl]pyrrolidine | N1[C@H](CCC1)C#CCN1CCCC1 | C11H18N2
reactant | dimethyl carbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | MeOH | CO | CH4O
product | (S)-N,N-Dimethyl 2-[3-(1-pyrrolidinyl)-1-propynyl]-1-pyrrolidinecarboxamide | CN(C(=O)N1[C@@H](CCC1)C#CCN1CCCC1)C | C14H23N3O
